US04797413
Step C: Preparation of N,N-dimethyl-4-oxo-4H-thieno[2,3-b]thiopyran-6-carboxamide
Under a nitrogen atmosphere, to a stirred solution of 4-oxo-4H-thieno[2,3-b]thiopyran-6-carboxylic acid (10.7 g, 0.05 mol) in tetrahydrofuran (50 ml) was added carbonyldiimidazole (8.9 g, 0.055 mol). The mixture was stirred at ambient temperature for 3/4 hour. Anhydrous dimethylamine was bubbled into the thick suspension at 0° C. until an excess was present. The resulting solution was stirred at 0° C. for 3/4 hour and the solvent was removed in vacuo. The residual oil was diluted with H2O (50 ml) and the solid which separated was filtered and dried to give 7.14 g of product, m.p. 126.5°-128 of 97% purity by HPLC. The aqueous filtrate was concentrated in vacuo and the residual gum was chromatographed on silica gel (200 g) using 10% methanol in chloroform. An additional 3.15 g of impure product was recovered. Yield was about 80%.

reactant | 4-oxo-4H-thieno[2,3-b]thiopyran-6-carboxylic acid | 0.05 mol, 10.7 g | O=C1C2=C(SC(=C1)C(=O)O)SC=C2 | C8H4O3S2
reactant | carbonyldiimidazole | 0.055 mol, 8.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-4-oxo-4H-thieno[2,3-b]thiopyran-6-carboxamide | 7.14 g, Yield was about 80% | CN(C(=O)C1=CC(C2=C(S1)SC=C2)=O)C | C10H9NO2S2
